US04230719
In 5 ml of methanol was dissolved 3.32 g (0.010 mole) of 3-[4-(3-methyl-2-thienyl)phenyl]-2,3-epoxy-2-methoxycarbonylbutyramide, followed by gradual addition of 15 ml (0.015 mole) of 1 N methanol solution of potassium hydroxide. The mixture was stirred at room temperature for one hour and freed from methanol by distillation under reduced pressure, and 40 ml of water was added thereto and 20 ml of benzene was then added to remove impurities, and the mixture was shaken thoroughly. The aqueous layer was separated, and 17 ml (0.017 mole) of 1 N hydrochloric acid was gradually added thereto, after which the mixture was heated with stirring to 90° C. to effect decarboxylation. After one hour of heating, the aqueous mixture was cooled and extracted with 70 ml of diethyl ether. The ether extract solution was dried over anhydrous magnesium sulfate and freed from diethyl ether by distillation under reduced pressure to obtain 2.10 g (77% yield) of 3 -[4-(3-methyl-2-thienyl)phenyl]-2-oxobutyramide.

reactant | 3-[4-(3-methyl-2-thienyl)phenyl]-2,3-epoxy-2-methoxycarbonylbutyramide | 0.010 mole, 3.32 g | CC1=C(SC=C1)C1=CC=C(C=C1)C1(C(C(=O)N)(C(=O)OC)O1)C | C17H17NO4S
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | 0.017 mole, 1 N, 17 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 0.015 mole, 1 N, 15 ml | CO | CH4O
product | 3 -[4-(3-methyl-2-thienyl)phenyl]-2-oxobutyramide | 2.10 g, 77% yield | CC1=C(SC=C1)C1=CC=C(C=C1)C(C(C(=O)N)=O)C | C15H15NO2S
